US06861389B2
N-[4-(1-Fluoro1-methylethyl)-6-(1-cyclopropyl-4-phenyl-1-butylamino)-1,3,5-triazin-2-yl]formamide oxime (see Table 8, Example 8-27)
0.69 g (10 mmol) of hydroxylamine hydrochloride are added with stirring at room temperature to a solution of 1.99 g (5 mmol) of 2-dimethylaminomethyleneamino-4-(1-fluoro-1-methylethyl)-6-(1cyclopropyl-4-phenyl-1-butylamino) -1,3,5-triazine in 20 ml of methanol. The reaction mixture is stirred for 2 hours at room temperature. All volatile constituents are carefully distilled off. The crude product is taken up in methylene chloride. The mixture is washed with water, dried over Na2SO4 and evaporated in vacuo. This gives 1.81 g (93.7% of theory) of N-[4-(1-fluoro -1-methylethyl)-6-(1-cyclopropyl-4-phenyl-1-butylamino)-1,3,5-triazin-1-yl]formamide oxime as pale yellow oil.

reactant | hydroxylamine hydrochloride | 10 mmol, 0.69 g | Cl.NO
reactant | 2-dimethylaminomethyleneamino-4-(1-fluoro-1-methylethyl)-6-(1cyclopropyl-4-phenyl-1-butylamino) -1,3,5-triazine | 5 mmol, 1.99 g | CN(C)C=NC1=NC(=NC(=N1)C(C)(C)F)NC(CCCC1=CC=CC=C1)C1CC1 | C22H31FN6
solvent | methanol | 20 ml | CO | CH4O
product | N-[4-(1-Fluoro1-methylethyl)-6-(1-cyclopropyl-4-phenyl-1-butylamino)-1,3,5-triazin-2-yl]formamide oxime | FC(C)(C)C1=NC(=NC(=N1)NC(CCCC1=CC=CC=C1)C1CC1)NC=NO | C20H27FN6O
